US03931255
5-Nitro-1,4-naphthoquinone is prepared by reducing 8-nitro-1,4-naphthoquinone-1-oxime and/or 5-nitro-1,4-naphthoquinone-1-oxime in an aqueous and/or organic reaction medium in the presence of iron (II) ions and a hydrogen halide at a temperature in the range of from -20° to 100°C, and thereafter oxidizing the 8- and and/or 5-nitro-4-amino-1-naphthol formed, or the corresponding salt, optionally without intermediate isolation, at a temperature in the range of from -10° to 100°C to form the desired 5-nitro-1,4-naphthoquinone.

reactant | 8-nitro-1,4-naphthoquinone-1-oxime | [N+](=O)([O-])C=1C=CC=C2C(C=CC(C12)=NO)=O | C10H6N2O4
reactant | 5-nitro-1,4-naphthoquinone-1-oxime | [N+](=O)([O-])C1=C2C(C=CC(C2=CC=C1)=NO)=O | C10H6N2O4
reactant | 5-nitro-4-amino-1-naphthol | [N+](=O)([O-])C1=C2C(=CC=C(C2=CC=C1)O)N | C10H8N2O3
catalyst | iron (II) | [Fe+2]
product | 5-nitro-1,4-naphthoquinone | [N+](=O)([O-])C1=C2C(C=CC(C2=CC=C1)=O)=O | C10H5NO4
